US08008497B2
6-(2-Methoxy-4-methoxymethoxyphenyl)-5-(4-methylbenzo yloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 2-1)
5-Hydroxymethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 1, 1.00 g, 2.71 mmol), 2-methylbenzoic acid (739 mg, 5.43 mmol), tri-n-butylphosphine (1.35 mL, 5.40 mmol), and 1,1′-(azodicarbonyl)dipiperidine (1.37 g, 5.43 mmol) were dissolved in anhydrous benzene (30 mL), and then the mixture was stirred under argon atmosphere at room temperature overnight. Hexane (30 mL) was added to the reaction mixture, and then the unsoluble materials were filtered out. The filtrate was concentrated under reduced pressure, and then the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (967 mg) as a colorless amorphous product. (Yield 73%)

reactant | 5-Hydroxymethyl-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 2.71 mmol, 1.00 g | OCC1=C2C(=CC(NC2=CC=C1C1=C(C=C(C=C1)OCOC)OC)(C)C)C | C22H27NO4
reactant | 2-methylbenzoic acid | 5.43 mmol, 739 mg | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | tri-n-butylphosphine | 5.40 mmol, 1.35 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.43 mmol, 1.37 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | Hexane | 30 mL | CCCCCC | C6H14
product | 6-(2-Methoxy-4-methoxymethoxyphenyl)-5-(4-methylbenzo yloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 967 mg, Yield 73% | COC1=C(C=CC(=C1)OCOC)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(C1=CC=C(C=C1)C)=O | C30H33NO5
